US07700589B2
76c) diethyl 2-(3,4-dimethyl-benzyl)-2-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-malonate
A mixture of 10.0 g (29.7 mmol) 4-(3,4-dimethyl-phenyl)-3,3-bis-ethoxycarbonyl-butanoic acid, 10.5 g (32.7 mmol) TBTU, 4.2 g (30.5 mmol) HOBt, 5.8 mL (32.4 mmol) ethyldiisopropylamine, 270 mL THF and 30 mL water was stirred for 15 min at RT and then combined with 7.6 g (32.9 mmol) 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one. The reaction mixture was stirred for 5 h at RT and evaporated down under reduced pressure. The residue was stirred with 150 mL saturated NaHCO3 solution, suction filtered, washed with water and dried in the circulating air dryer.

reactant | 4-(3,4-dimethyl-phenyl)-3,3-bis-ethoxycarbonyl-butanoic acid | 29.7 mmol, 10.0 g | CC=1C=C(C=CC1C)CC(CC(=O)O)(C(=O)OCC)C(=O)OCC | C18H24O6
reactant | TBTU | 32.7 mmol, 10.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 30.5 mmol, 4.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethyldiisopropylamine | 32.4 mmol, 5.8 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 32.9 mmol, 7.6 g | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | water | 30 mL | O | H2O
solvent | THF | 270 mL | C1CCOC1 | C4H8O
product | diethyl 2-(3,4-dimethyl-benzyl)-2-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-malonate | CC=1C=C(CC(C(=O)OCC)(C(=O)OCC)CC(N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C=CC1C | C31H39N3O6
